US04472433
A solution of ethyl 2-[2-nitro-3-(2-fluorophenoxy)phenyl]acetate in methanol (50 ml) was added to a solution of potassium hydroxide (20 g) in methanol (50 ml) with stirring under ice-cooling, and the mixture was stirred at room temperature for 30 minutes. Water (700 ml) was added to the reaction mixture and the resultant aqueous solution was adjusted to pH 2.0 with conc. hydrochloric acid. The precipitating crystals were collected by filtration, washed with water and recrystallized from a mixture of ethyl acetate and n-hexane (1:1) to give 2-[2-nitro-3-(2-fluorophenoxy)phenyl]acetic acid (31.9 g). mp 144°-146° C.

reactant | ethyl 2-[2-nitro-3-(2-fluorophenoxy)phenyl]acetate | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C=CC=C1)F)CC(=O)OCC | C16H14FNO5
reactant | potassium hydroxide | 20 g | [OH-].[K+]
reactant | Water | 700 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-[2-nitro-3-(2-fluorophenoxy)phenyl]acetic acid | 31.9 g | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C=CC=C1)F)CC(=O)O | C14H10FNO5
